US07238694B2
Step 7: 1-Cyclopropyl-6-fluoro-8-methoxy-7-{3-[1-(methyl-piperidin-4-yl-amino)-cyclopropyl]-pyrrolidin-1-yl}-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid:
To a stirred solution of 7-(3-{1-[(1-tert-butoxycarbonyl-piperidin-4-yl)-methyl-amino]-cyclopropyl}-pyrrolidin-1-yl)-1-cyclopropyl-6-fluoro-8-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid in dichloroethane (2.0 mL) was added trifluoroacetic acid (1.0 mL, ˜13 mmol) at 0° C. during a period of 5-6 minutes. The resulting solution was stirred at room temperature for one hour. The solvent was removed to yield yellow oil, which was partitioned between CH2Cl2 and sat. aq NaHCO3. The separated aqueous phase was extracted with CH2Cl2. The combined organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The product was isolated as a yellow solid (85 mg, 100%). ESI MS m/z 499.4 (M+H+).

reactant | 7-(3-{1-[(1-tert-butoxycarbonyl-piperidin-4-yl)-methyl-amino]-cyclopropyl}-pyrrolidin-1-yl)-1-cyclopropyl-6-fluoro-8-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1(CC1)C1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F)C | C32H43FN4O6
reactant | trifluoroacetic acid | ˜13 mmol, 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloroethane | 2.0 mL | ClC(C)Cl | C2H4Cl2
product | 1-Cyclopropyl-6-fluoro-8-methoxy-7-{3-[1-(methyl-piperidin-4-yl-amino)-cyclopropyl]-pyrrolidin-1-yl}-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 85 mg, 100% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CC(CC1)C1(CC1)N(C1CCNCC1)C)F)=O)C(=O)O | C27H35FN4O4
